US09303065B2
37A. 4-Chloro-2,6-dimethoxybenzaldehyde
A solution of 1-chloro-3,5-dimethoxybenzene (5 g, 29.0 mmol) and TMEDA (4.37 mL, 29.0 mmol) in diethyl ether (100 mL, 962 mmol) at −78° C. under N2 atmosphere was charged with BuLi (19.91 mL, 31.9 mmol) dropwise over a period of 30 minutes using a syringe pump. After stirring for 4 hours at −78° C., DMF was added and the reaction mixture continued to stir for 1.5 hours after which 1N HCl (˜30 mL) was added (all at −78° C.). The reaction mixture was warmed to room temperature and extracted with ethyl acetate. The organic phase was dried (MgSO4), filtered and concentrated to dryness. The residue was purified by ISCO using hexanes/EtOAc as eluent. Fractions containing the desired product were concentrated to dryness to give the title material (1.97 g, 9.82 mmol, 33.9% yield) as a light yellow solid. LC (Method B): 1.924 min. LCMS (APCI) calcd for C9H10ClO3 [M+H]+ m/z 201.03, found 201.0. 1H NMR (CDCl3, 400 MHz) δ ppm: 10.28 (s, 1H), 6.87 (s, 2H), 3.86 (s, 6H).

reactant | 1-chloro-3,5-dimethoxybenzene | 29.0 mmol, 5 g | ClC1=CC(=CC(=C1)OC)OC | C8H9ClO2
reactant | TMEDA | 29.0 mmol, 4.37 mL | CN(C)CCN(C)C | C6H16N2
reactant | diethyl ether | 962 mmol, 100 mL | C(C)OCC | C4H10O
reactant | BuLi | 31.9 mmol, 19.91 mL | [Li]CCCC
reactant | HCl | 1N, ˜30 mL | Cl | ClH
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-Chloro-2,6-dimethoxybenzaldehyde | 9.82 mmol, 1.97 g, 33.9% yield | ClC1=CC(=C(C=O)C(=C1)OC)OC | C9H9ClO3
